US07528136B2
a) (2S,4S)-4-Iodo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
To a round-bottom flask equipped with a magnetic stir bar and an addition funnel under N2 was added N-Boc-L-trans-4-hydroxy-proline methyl ester (60 mmol, 1 equiv), P(Ph)3 (72 mmol, 1.2 equiv) and anhydrous THF (275 ml). The solution was cooled to 0 centigrade, DEAD (1.2 equiv) in dry THF was added dropwise; followed by the addition of MeI (1.2 equiv). Upon addition of MeI, the solution turned from dark brown to bright yellow. The reaction mixture was allowed to warm to ambient temperature and stirred for 10 hours. The solvent was removed under reduced pressure and the crude oil was purified by chromatography on silica gel to afford title product (19.44 g) as colorless oil in 91% yield. MS m/e=356.4 [M+H]+.

reactant | N-Boc-L-trans-4-hydroxy-proline methyl ester | 60 mmol, 1 equiv | CC(C)(C)OC(=O)N1C[C@@H](C[C@H]1C(=O)OC)O | C11H19NO5
reactant | P(Ph)3 | 72 mmol, 1.2 equiv | P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.2 equiv | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | MeI | 1.2 equiv | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 275 ml | C1CCOC1 | C4H8O
product | (2S,4S)-4-Iodo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 19.44 g, 91% yield | COC(=O)[C@H]1N(C[C@H](C1)I)C(=O)OC(C)(C)C | C11H18INO4
